US09447114B2
To a solution of 1-methyl-2,4-dioxo-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoro methoxy)phenoxy)-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carbaldehyde (50 mg, 0.095 mmol) in THF (2 mL) was added (4-chlorophenyl)magnesium bromide (0.19 mL, 0.190 mmol). The reaction was stirred for 2 min then diluted with DCM (5 mL) and water (5 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by chromatography PE/EA (5:1 to 3:1) to give 5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenoxy)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (30 mg, 49.5% yield) as a solid. LCMS: [M+-THP-OH] 539 and TR=2.159 min.

reactant | 1-methyl-2,4-dioxo-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoro methoxy)phenoxy)-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidine-5-carbaldehyde | 0.095 mmol, 50 mg | CN1C(N(C(C2=C1SC(=C2C=O)OC2=CC(=CC=C2)OC(F)(F)F)=O)CCCOC2OCCCC2)=O | C23H23F3N2O7S
reactant | (4-chlorophenyl)magnesium bromide | 0.190 mmol, 0.19 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenoxy)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 30 mg, 49.5% yield | ClC1=CC=C(C=C1)C(C1=C(SC=2N(C(N(C(C21)=O)CCCOC2OCCCC2)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)O | C29H28ClF3N2O7S
